US05032165
Preparation of 4-chloro-3-[4-chloro-2-fluoro-5-(2-propynylthio)phenyl]-1-methyl-5-methylthio-1H-pyrazole (compound No. 221)
A mixture of 4-chloro-3-(4-chloro-2-fluoro-5-mercaptophenyl)-1-methyl-5-methylthio-1H-pyrazole (0.60 g, 1.86 mmoles), 30 ml acetone, a K2CO3 powder (2.04 mmoles), and propargyl bromide (2.23 mmoles), was subjected to reaction under reflux for 2 hours. Then the resulting solution was filtered to remove acetone-insoluble matter and the filtrate was concentrated and purified by silica gel column chromatography, giving crystals (0.54 g) of the title compound, m.p. 93-96° C., yield 80.5%.

reactant | 4-chloro-3-(4-chloro-2-fluoro-5-mercaptophenyl)-1-methyl-5-methylthio-1H-pyrazole | 1.86 mmoles, 0.60 g | ClC=1C(=NN(C1SC)C)C1=C(C=C(C(=C1)S)Cl)F | C11H9Cl2FN2S2
reactant | K2CO3 | 2.04 mmoles | C(=O)([O-])[O-].[K+].[K+]
reactant | propargyl bromide | 2.23 mmoles | C(C#C)Br | C3H3Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-chloro-3-[4-chloro-2-fluoro-5-(2-propynylthio)phenyl]-1-methyl-5-methylthio-1H-pyrazole | 0.54 g, yield 80.5% | ClC=1C(=NN(C1SC)C)C1=C(C=C(C(=C1)SCC#C)Cl)F | C14H11Cl2FN2S2
